US04644062
10 mmol of 5-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid ethyl ester is dissolved in 45 ml of methylene chloride. The solution is cooled to -15° C. and 4.6 ml of triethylamine is added Then a solution of 3.6 ml of tert-butyl hypochlorite in 45 ml of methylene chloride is added within about 10 minutes and stirred for 5 minutes more. After further addition of 3.8 ml of triethylamine, heating to ambient temperature and stirring at this temperature for 4 hours takes place. The solvent is distilled off in vacuum (bath temperature +30° C.) and condensed to dryness at +60° C. bath temperature. The residue is taken up in methylene chloride, filtered over silica gel, rewashed with methylene chloride, the product is eluted with ethyl acetate, the eluate is condensed and washed with ice water. The precipitate is filtered off and wahsed with ice-cold ethyl acetate. 2.93 g of 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester (80.5% of theory) with melting point 190.0° C. is obtained.

reactant | 5-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid ethyl ester | 10 mmol | C(C)OC(=O)C1NCC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C23H26N2O4
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hypochlorite | 3.6 ml | ClOC(C)(C)C | C4H9ClO
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 2.93 g, 80.5% | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C23H22N2O4
